US09193728B2
Preparation of 2-(pyridin-4-yl)-2H-benzo[b][1,4]thiazin-3(4H)-one
To a suspension of sodium hydride (0.14 g, 0.00576 mol) in DMF was added a solution of ethyl 2-(pyridin-4-yl)acetate (0.8 g, 0.0048 mol) and 2,2′-disulfanediyldianiline (1.2 g, 0.0048 mol) in DMF (16 mL) dropwise under nitrogen atmosphere at RT. The reaction mixture was heated at 100° C. and stirred for 15 min. After completion of reaction (monitored by TLC), the reaction mixture was cooled to RT and diluted with water (100 mL). The mixture was extracted with EtOAc (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain crude product, which was purified by column chromatography (50% EtOAc:hexane in silica 100-200 mesh, diameter of column—5 cm, height of silica—approx. 5 inch) to provide the desired compound as a yellow colored oil (0.6 g, 51% yield).

reactant | sodium hydride | 0.00576 mol, 0.14 g | [H-].[Na+]
reactant | ethyl 2-(pyridin-4-yl)acetate | 0.0048 mol, 0.8 g | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
reactant | 2,2′-disulfanediyldianiline | 0.0048 mol, 1.2 g | S(SC1=C(N)C=CC=C1)C1=C(N)C=CC=C1 | C12H12N2S2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(pyridin-4-yl)-2H-benzo[b][1,4]thiazin-3(4H)-one | 0.6 g, 51% yield | N1=CC=C(C=C1)C1C(NC2=C(S1)C=CC=C2)=O | C13H10N2OS
